US04713393
A mixture of 1-(5-acetoxy-2,3-dihydrobenzofuran-6-yl)-2-(2-thienyl)ethene (0.55 g, 0.0019 mol), in ethanol (20 ml) and 12N HCl (0.5 ml) was hydrogenated at 40 psi using 10% Pd/C (0.55 g) as catalyst. After filtration and concentration the crude 5-acetoxy-6-(2-(2-thienyl)ethyl)-2,3-dihydrobenzofuran was dissolved in methylene chloride (20 ml) and washed with saturated sodium bicarbonate (2×10 ml) saturated sodium chloride (10 ml) and concentrated. The resulting yellow oil was dissolved in ethanol (10 ml) and 50% NaOH (0.2 ml). The mixture was allowed to stir for 1/2 hour at room temperature and was concentrated. The crude product was dissolved in methylene chloride (20 ml) and washed with 10% acetic acid (10 ml), saturated sodium carbonate (10 ml), saturated sodium chloride (10 ml). The combined organic layers were dried (MgSO4), and concentrated to a dark oil. Purification by chromatography over silica gel (hexane/ethyl acetate, 90/10, as eluent) afforded 5-hydroxy-6-(2-(2-thienyl)ethyl)-2,3-dihydrobenzofuran (66 mg, 13%). m.p. 79°-85° C.

reactant | 1-(5-acetoxy-2,3-dihydrobenzofuran-6-yl)-2-(2-thienyl)ethene | 0.0019 mol, 0.55 g | C(C)(=O)OC=1C(=CC2=C(CCO2)C1)C=CC=1SC=CC1 | C16H14O3S
reactant | HCl | 12N, 0.5 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.55 g | [Pd] | Pd
product | 5-hydroxy-6-(2-(2-thienyl)ethyl)-2,3-dihydrobenzofuran | 66 mg, 13% | OC=1C(=CC2=C(CCO2)C1)CCC=1SC=CC1 | C14H14O2S
